US08685959B2
Synthesis of (1R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethanamine (see FIG. 6)
To a stirred solution of the crude (S)-N-(4-chloro-2-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide (26.8 g, 86.0 mmol) in dichloromethane (290 mL) at −48° C. was added a solution of methyl magnesium bromide (3.0 M in diethyl ether, 63.0 mL, 189.0 mmol) dropwise. The reaction was stirred below −40° C. for 18 h, and the reaction was slowly warmed to 0° C. and quenched with 50% saturated aqueous ammonium chloride solution (100 mL). The phases were separated, and the organic layer was washed with deionized water (50 mL). The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was purified by flash chromatography (SiO2, 50% ethyl acetate in hexanes) to afford the desired product (14.6 g, 44.5 mmol, 52%).

reactant | (S)-N-(4-chloro-2-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 86.0 mmol, 26.8 g | ClC1=CC(=C(C=N[S@@](=O)C(C)(C)C)C=C1)C(F)(F)F | C12H13ClF3NOS
reactant | methyl magnesium bromide | 189.0 mmol, 3.0 M, 63.0 mL | C[Mg]Br
solvent | dichloromethane | 290 mL | ClCCl | CH2Cl2
product | (1R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethanamine | 44.5 mmol, 14.6 g, 52% | ClC1=CC(=C(C=C1)[C@@H](C)N)C(F)(F)F | C9H9ClF3N
